US07842688B2
a) tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-(1-methyl-1H-benzimidazol-4-ylmethoxy)piperidine-1-carboxylate
Analogously to Method D, 0.800 g of tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.317 g of 4-chloromethyl-1-methyl-1H-benzimidazole are reacted. The title compound is obtained as a yellow resin. Rf=0.30 (15:1 dichloromethane-methanol); Rt=4.74.

reactant | tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.800 g | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C27H37NO6
reactant | 4-chloromethyl-1-methyl-1H-benzimidazole | 0.317 g | ClCC1=CC=CC=2N(C=NC21)C | C9H9ClN2
product | tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-(1-methyl-1H-benzimidazol-4-ylmethoxy)piperidine-1-carboxylate | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=CC=CC=3N(C=NC32)C)C=CC=C1 | C36H45N3O6
